US03998829
3α-Acetoxy-20-ethoxy-21-formyl-5α-pregn-20-en-11-one
A stirred solution of 3α-acetoxy-5α-pregnane-11,20-dione (0.375 g.) in ethyl orthoformate (10 ml) at 0° was treated with 9 drops of 75% perchloric acid over 20 minutes. Ca 10 drops of pyridine were then added and the mixture was extracted with ice-cold ether. The organic layer was washed with N hydrochloric acid solution, then aqueous sodium hydrogen carbonate and finally water. It was dried (MgSO4) and evaporated. The residue (0.5 g) was purified by preparative t.l.c. (ethyl acetate/petrol, 1:3) and then crystallisation from methyl acetate/petrol to give the title compound (0.2 g), m.p. 150°-154°, [α]D - 59.8°, λmax. 258.9 nm (ε 15,900).

reactant | 3α-acetoxy-5α-pregnane-11,20-dione | 0.375 g | C(C)(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C23H34O4
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | ethyl orthoformate | 10 ml | C(OCC)([O-])[O-]
catalyst | perchloric acid | 9 drops | Cl(=O)(=O)(=O)O | ClHO4
product | 3α-Acetoxy-20-ethoxy-21-formyl-5α-pregn-20-en-11-one | 0.2 g | C(C)(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(=CC=O)OCC)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C26H38O5
